US04512998
2-Nitro-5-(6-ethoxybenzothiazol-2-ylthio)aniline (Compound A)
To a stirred solution of 0.15 moles of potassium hydroxide in a mixture of 15 ml of water and 300 ml of dimethylformamide add 0.15 moles of 6-ethoxybenzothiazole-2-thiol (L. B. Sebrell and C. E. Boord, J. Am. Chem. Soc., 45, 2390 (1923)) under a nitrogen atmosphere. After complete dissolution, add 2-nitro-5-chloroaniline (R. C. Fuson, R. A. Dauman, E. Howard, Jr., and E. N. Marvell, J. Org. Chem., 12, 084 (1947)) and heat the mixture under reflux and a positive nitrogen pressure for about 16 hours. Pour the mixture into 1000 ml of water and remove the resulting precipitate. Wash the precipitate with water and crystallize from acetonitrile to give the title compound having a melting point of 126°-129° C.

reactant | potassium hydroxide | 0.15 moles | [OH-].[K+]
reactant | 6-ethoxybenzothiazole-2-thiol | 0.15 moles | C(C)OC1=CC2=C(N=C(S2)S)C=C1 | C9H9NOS2
reactant | 2-nitro-5-chloroaniline | [N+](=O)([O-])C1=C(N)C=C(C=C1)Cl | C6H5ClN2O2
solvent | water | 15 ml | O | H2O
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | water | 1000 ml | O | H2O
product | 2-Nitro-5-(6-ethoxybenzothiazol-2-ylthio)aniline | [N+](=O)([O-])C1=C(N)C=C(C=C1)SC=1SC2=C(N1)C=CC(=C2)OCC | C15H13N3O3S2
